US03962445
a. 7-Chloro-4-hydroxy-1-methyl carbostyril
Refluxing a solution of 4-chloro-N-methyl anthranilic acid (13.6g; 0.073 mole) in acetic acid (37 ml) and acetic anhydride (37 ml) for 6 hours and work up as described in Example 35(a) gave the title compound; m.p. (AcOH, EtOH) 308°-9°. (Found; C, 56.97; H, 4.03; N, 6.89 Cl, 16.82; C10H8NClO 2 requires; C, 57.29; H, 3.85; N, 6.68; Cl, 16.91%).

reactant | 4-chloro-N-methyl anthranilic acid | 0.073 mole, 13.6g | ClC=1C=C(C(C(=O)O)=CC1)NC | C8H8ClNO2
reactant | acetic acid | 37 ml | C(C)(=O)O | C2H4O2
solvent | acetic anhydride | 37 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 7-Chloro-4-hydroxy-1-methyl carbostyril | ClC1=CC=C2C(=CC(N(C2=C1)C)=O)O | C10H8ClNO2
